US06936602B1
To a solution of acetamide (4.0 g) in tetrahydrofuran (300 ml) was added sodium hydrogen carbonate (28.4 g), followed by addition of 80% ethyl bromopyruvate (21.5 g) at 0° C. The mixture was heated at 85° C. overnight, the temperature was returned to room temperature, the insolubles were filtered using Celite and the solvent was evaporated under reduced pressure. The resulting residue was dissolved in tetrahydrofuran (150 ml), and to the solution was added dropwise trifluoroacetic anhydride at 0° C. After concentrated under reduced pressure, to the mixture was added ethyl acetate, and the mixture was washed with saturated sodium hydrogen carbonate solution twice and further with saturated brine and dried with magnesium sulfate. The solvent was evaporated under reduced pressure, followed by distillation under reduced pressure to give ethyl 2-methyloxazole-4-carboxylate (4.67 g).

reactant | acetamide | 4.0 g | C(C)(=O)N | C2H5NO
reactant | sodium hydrogen carbonate | 28.4 g | C(O)([O-])=O.[Na+]
reactant | ethyl bromopyruvate | 21.5 g | BrCC(C(=O)OCC)=O | C5H7BrO3
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | ethyl 2-methyloxazole-4-carboxylate | 4.67 g | CC=1OC=C(N1)C(=O)OCC | C7H9NO3
